US07129260B2
2-(4-bromophenyl)-N-(3-methylphenyl)acetamide
A solution of 4-bromophenylacetic acid (502 mg, 2.33 mmol), m-toluidine (0.25 mL, 2.33 mmol), HOBT (350 mg, 2.59 mmol), and N-methylmorpholine (0.51 mL, 4.64 mmol) in DMF (10 mL) was treated with EDCI (496 mg, 2.59 mmol), stirred overnight at room temperature, and poured into ice water. The resulting white precipitate was collected by filtration to give 672 mg of the desired product. MS (ESI(+)) m/e 304, 306 (M+H)+.

reactant | 4-bromophenylacetic acid | 2.33 mmol, 502 mg | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | m-toluidine | 2.33 mmol, 0.25 mL | NC1=CC(=CC=C1)C | C7H9N
reactant | HOBT | 2.59 mmol, 350 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 4.64 mmol, 0.51 mL | CN1CCOCC1 | C5H11NO
reactant | EDCI | 2.59 mmol, 496 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(4-bromophenyl)-N-(3-methylphenyl)acetamide | 672 mg | BrC1=CC=C(C=C1)CC(=O)NC1=CC(=CC=C1)C | C15H14BrNO
